US08012976B2
A mixture of 3-(3-oxo-9-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde (40 mg, 0.11 mmol), morpholine (28 mg, 0.33 mmol) and acetic acid (33 mg, 0.55 mmol) in methanol (50 mL) was stirred at room temperature for 40 min. Then the mixture was cooled to 0° C. Sodium triacetoxyborohydride (35 mg, 0.16 mmol) was added. After the addition, the mixture was stirred at 0° C. for 2 hr. Methanol was removed under reduced pressure. The residue was resolved with 1N hydrochloric acid and washed with ethyl acetate. The mother liquor was adjusted to pH=8 and extracted with ethyl acetate. The solvent was removed to give 8-(3-(morpholinomethyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one (31 mg, yield 66%) as a light yellow solid. 1H-NMR (400 MHz, CD3OD) δ (ppm): 2.23-2.24 (m, 4H), 3.32-3.43 (q, 2H), 4.30 (d, J=8.0 Hz, 1H), 4.74 (d, J=8.0 Hz, 1H), 7.08-7.10 (m, 2H), 7.13-7.19 (m, 6H), 7.21-7.25 (m, 1H), 7.31-7.33 (m, 1H), 7.55-7.57 (d, J=8.0 Hz, 1H), 7.62-7.64 (m, 1H). LC-MS (ESI) m/z: 439(M+1)+.

reactant | 3-(3-oxo-9-phenyl-3,7,8,9-tetrahydro-2H-pyrido[4,3,2-de]phthalazin-8-yl)benzaldehyde | 0.11 mmol, 40 mg | O=C1NN=C2C=3C(=CC=CC13)NC(C2C2=CC=CC=C2)C=2C=C(C=O)C=CC2 | C23H17N3O2
reactant | morpholine | 0.33 mmol, 28 mg | N1CCOCC1 | C4H9NO
reactant | acetic acid | 0.55 mmol, 33 mg | C(C)(=O)O | C2H4O2
reactant | Sodium triacetoxyborohydride | 0.16 mmol, 35 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 8-(3-(morpholinomethyl)phenyl)-9-phenyl-8,9-dihydro-2H-pyrido[4,3,2-de]phthalazin-3(7H)-one | 31 mg, yield 66% | O1CCN(CC1)CC=1C=C(C=CC1)C1C(C2=NNC(C=3C=CC=C(C23)N1)=O)C1=CC=CC=C1 | C27H26N4O2
